US07635715B2
Step H: Preparation of tert-Butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetate
DIPEA (0.05 mL, 276 μmol) was added to a stirred mixture of ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxylate (24 mg, 92 μmol) and glycine tert-butyl ester hydrochloride (38 mg, 230 μmol) in 1,4-dioxane (3 mL). The reaction mixture was then stirred at 75° C. for 1.5 hours. The reaction mixture was concentrated, and the residue was purified by silica flash chromatography (0-75% EtOAc/hexane) to give the title compound as a crystalline white solid (15 mg, 47%). MS (m/z)=347 (M+H)+. Calculated for C18H22N2O5 346.4.

reactant | DIPEA | 276 μmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxylate | 92 μmol, 24 mg | OC=1C=2C=CC=NC2C(C(C1C(=O)OCC)=O)(C)C | C14H15NO4
reactant | glycine tert-butyl ester hydrochloride | 230 μmol, 38 mg | Cl.C(C)(C)(C)OC(CN)=O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxamido)acetate | 15 mg, 47% | OC=1C=2C=CC=NC2C(C(C1C(=O)NCC(=O)OC(C)(C)C)=O)(C)C | C18H22N2O5
